US04738968
cis-3-Azidomethyl-1-benzyl-4-fluoropyrrolidine was reduced with sodium bis-(2-methoxyethoxy)aluminium hydride and formylated with formic acid-acetic anhydride to yield cis-1-benzyl-4-fluoro-3-formylaminomethylpyrrolidine.

reactant | cis-3-Azidomethyl-1-benzyl-4-fluoropyrrolidine | N(=[N+]=[N-])C[C@@H]1CN(C[C@@H]1F)CC1=CC=CC=C1 | C12H15FN4
reactant | sodium bis-(2-methoxyethoxy)aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | formic acid-acetic anhydride | C(C)(=O)OC=O | C3H4O3
product | cis-1-benzyl-4-fluoro-3-formylaminomethylpyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)F)CNC=O | C13H17FN2O
